US04232032
A mixture of 6-hydroxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin (1.0 g.), benzoyl chloride (0.35 ml.) and toluene (20 ml.) was warmed on the steam bath for 1 hour. The resulting solution was cooled to ambient temperature and evaporated to dryness under reduced pressure to give an oily residue. The residue was triturated with ethanol (5 ml.) to give a white solid, which was crystallised from ethanol to give 6-benzoyloxy-2,4-bis(trichloromethylbenzo[1,3]dioxin, m.p. 167°-169° C.

reactant | 6-hydroxy-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 1.0 g | OC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C10H6Cl6O3
reactant | benzoyl chloride | 0.35 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | trichloromethylbenzo[1,3]dioxin | ClC(Cl)(Cl)C1OC2=C(CO1)C=CC=C2 | C9H7Cl3O2
